US05565568
Preparation of 2-amino-3-(1H-indol-3-yl)-N-(2-chlorobenzyl)propanamide
A stirring solution of 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-chlorobenzyl)propanamide (6.00 g, 14 mmol) in 30 ml of 70% aqueous trifluoroacetic acid (21 ml trifluoroacetic acid, 9 ml water) was allowed to stir overnight at room temperature. The progress of this deprotection reaction was monitored by thin layer chromatography.

reactant | 2-t-butoxycarbonylamino-3-(1H-indol-3-yl)-N-(2-chlorobenzyl)propanamide | 14 mmol, 6.00 g | C(C)(C)(C)OC(=O)NC(C(=O)NCC1=C(C=CC=C1)Cl)CC1=CNC2=CC=CC=C12 | C23H26ClN3O3
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-3-(1H-indol-3-yl)-N-(2-chlorobenzyl)propanamide | NC(C(=O)NCC1=C(C=CC=C1)Cl)CC1=CNC2=CC=CC=C12 | C18H18ClN3O
